US07256219B2
1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[2,3-difluoro-4-(trifluoromethyl)phenyl]prop-2-en-1-one
The title compound was prepared from a mixture of 2,5-bis(2,2,2-trifluoroethoxy)acetophenone (200 mg, 0.633 mmol) and 2,3-difluoro-4-(trifluoromethyl)benzaldehyde (91 ul, 0.633 mmol) similar to Example 18 as a yellow solid (66 mg, 20%). 1H NMR (CDCl3): 7.78 (d, J=15.9 Hz, 1H), 7.64 (d, J=16.2 Hz, 1H), 7.51-7.38 (m, 2H), 7.35 (d, J=3.0 Hz, 1H), 7.18 (dd, J=3.3, 9.0 Hz, 1H), 6.95 (d, J=9.3 Hz, 1H), 4.47-4.35 (m, 4H).

reactant | 2,5-bis(2,2,2-trifluoroethoxy)acetophenone | 0.633 mmol, 200 mg | CC(=O)C1=C(C=CC(=C1)OCC(F)(F)F)OCC(F)(F)F | C12H10F6O3
reactant | 2,3-difluoro-4-(trifluoromethyl)benzaldehyde | 0.633 mmol, 91 ul | FC1=C(C=O)C=CC(=C1F)C(F)(F)F | C8H3F5O
product | 1-[2,5-Bis(2,2,2-trifluoroethoxy)phenyl]-3-[2,3-difluoro-4-(trifluoromethyl)phenyl]prop-2-en-1-one | FC(COC1=C(C=C(C=C1)OCC(F)(F)F)C(C=CC1=C(C(=C(C=C1)C(F)(F)F)F)F)=O)(F)F | C20H11F11O3
